US07893099B2
(1S,3S) and (1R,3R)-3-(2-Chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
The title compound was synthesized in analogy to Example 68/69, Step 11, from rac-(1S,3S)-3-(2-chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid and 1-amino-cyclopropanecarbonitrile to afford the desired product as a light yellow oil. MS (EI): 371.0 (M+H)+.

reactant | rac-(1S,3S)-3-(2-chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid | ClC1=C(C=CC(=C1)F)S(=O)(=O)C1CC(CC1)C(=O)O | C12H12ClFO4S
reactant | 1-amino-cyclopropanecarbonitrile | NC1(CC1)C#N | C4H6N2
product | (1R,3R)-3-(2-Chloro-4-fluoro-benzenesulfonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | C(#N)C1(CC1)NC(=O)[C@H]1C[C@@H](CC1)S(=O)(=O)C1=C(C=C(C=C1)F)Cl | C16H16ClFN2O3S
